US07078428B2
N-[(2-Isobutyl-5-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 1.75 g of potassium tert-butoxide, 1.78 g of guanidinium chloride and 0.9 g of ethyl (2-isobutyl-5-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 40 hours and is then poured into 150 cm3 of water and extracted with 3 times 150 cm3 of ethyl acetate. The organic extracts are combined, washed with-3 times 50 cm3 of water, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The residue is taken up in diethyl ether and then filtered, giving 0.66 g of N-[(2-isobutyl-5-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine in the form of a white solid melting at 266° C. (Analysis C16H22N4O2% calculated C : 63.56, H : 7.33, N: 18.53, O: 10.58% found C : 63.57, H: 7.48, N: 18.50).

reactant | potassium tert-butoxide | 1.75 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 1.78 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (2-isobutyl-5-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 0.9 g | C(C(C)C)N1C(C2=CC=C(C=C2C1=O)C)CC(=O)OCC | C17H23NO3
solvent | water | 150 cm3 | O | H2O
product | N-[(2-isobutyl-5-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 0.66 g | C(C(C)C)N1C(C2=CC=C(C=C2C1=O)C)CC(=O)NC(=N)N | C16H22N4O2
